* Tier 1 - analog change detector, corrected reference circuit
* ===========================================================================
* Companion to
* docs/trigger_characterization.md (as-built values).
*
* LTspice:  File > Open > docs/tier1_analog.cir, then Run.
* Self-contained - no symbol libraries. LM358/LM339 are behavioural, below.
*
* Chain: sensor -> high-pass 0.16 Hz -> gain x11 -> low-pass 48 Hz
*        -> comparator + trimmer + hysteresis -> open-collector D2
*
* Nodes: VCC    5 V rail
*        VREF   2.5 V mid-rail (R1/R2/C1)
*        VPHOTO phototransistor emitter, idle ~1.5 V
*        HP     high-pass output, biased to VREF
*        FB     gain-stage feedback node = LM358 IN-   (NOT tied to VCC)
*        GAIN   LM358 output
*        A0     low-pass output -> Arduino A0 ("peak")
*        VTH    trimmer wiper -> LM339 IN+
*        D2     comparator output -> Arduino D2/INT0, LOW = event
* ===========================================================================

.param RHP   = 1Meg   ; high-pass R. 100k gives fc 1.6 Hz and 10x less bias
                      ; offset, but droops 39% over a 50 ms flash (see below)
.param IB    = 0      ; LM358 input bias current. Try 45n - see note at the end
.param WIPER = 0.56   ; 3386P trimmer position -> VTH = 5*WIPER = 2.80 V
.param ISIG  = 6u     ; flash photocurrent step (6u * 10k = 60 mV at the sensor)
.param IFLK  = 2u     ; 120 Hz flicker bait     (2u * 10k = 20 mV pk)

* ---- supply and 2.5 V mid-rail --------------------------------------------
V1   VCC  0    5
R1   VCC  VREF 10k
R2   VREF 0    10k
C1   VREF 0    10u        ; without this the "reference" moves with the signal
C4   VCC  0    0.1u       ; decoupling: one per active device on the real board

* ---- stage 1: photosensor --------------------------------------------------
* 5V -> phototransistor -> 10k -> GND, modelled as photocurrent into the load
* so the high-pass sees the real source impedance instead of an ideal source.
Iph   VCC VPHOTO PULSE(150u {150u+ISIG} 100m 2m 2m 50m 200m)
Iflk  VCC VPHOTO SIN(0 {IFLK} 120)
Rload VPHOTO 0 10k

* ---- stage 2: high-pass, fc = 1/(2*pi*1M*1u) = 0.16 Hz ---------------------
C2 VPHOTO HP 1u
R3 HP VREF {RHP}

* ---- stage 3: gain x11, non-inverting, referenced to VREF ------------------
XU1  HP FB VCC 0 GAIN LM358
R5   GAIN FB 100k
R4   FB VREF 10k

* ---- stage 4: low-pass, fc = 1/(2*pi*33k*0.1u) = 48 Hz ---------------------
R6 GAIN A0 33k
C3 A0 0 0.1u

* ---- stage 5: comparator ---------------------------------------------------
* Signal to IN-, trimmer to IN+, so a light step drives D2 LOW (INT0 wake).
XU2  VTH A0 0 D2 LM339
Rpt  VCC VTH {10k*(1-WIPER)}   ; 3386P trimmer, 10k end to end
Rpb  VTH 0   {10k*WIPER}
R8   D2 VTH 1Meg               ; hysteresis: (2.5k||1M)*5V = ~12 mV
R7   VCC D2 10k                ; pull-up - open collector cannot drive high
* Debug LED (LED + 1k from VCC to D2) is on the board but left out of the sim:
* it adds ~3 mA while asserted and changes nothing about the trigger.

* ---- behavioural LM358: single supply, GBW 1 MHz, swings to VCC-1.5 --------
.subckt LM358 inp inn vcc vee out
Ibp 0 inp {IB}                 ; PNP inputs: bias current flows OUT of the pins
Ibn 0 inn {IB}
Eop n1 0 VALUE={LIMIT(1e5*V(inp,inn), V(vee)-1, V(vcc)+1)}
Rp  n1 n2 1k
Cp  n2 0  15.9u                ; 10 Hz pole x Avol 1e5 = 1 MHz GBW
Eo  n3 0 VALUE={LIMIT(V(n2), V(vee)+0.02, V(vcc)-1.5)}
Ro  n3 out 100
.ends
* Slew rate not modelled: 0.5 V/us crosses a 660 mV step in ~1.3 us, and the
* 48 Hz low-pass (tau 3.3 ms) dominates the edge by three orders of magnitude.

* ---- behavioural LM339: open collector, pulls low when IN- > IN+ -----------
.subckt LM339 inp inn gnd out
S1 out gnd inn inp SWMOD
.model SWMOD SW(Ron=100 Roff=1G Vt=0 Vh=0.5m)
.ends
* Internal hysteresis is ~0 on purpose - all of it comes from R8, so the sim
* proves the external network, not a model artefact. 1.3 us tPD not modelled.

* ---- run + checks ----------------------------------------------------------
.tran 0 0.6 0 100u

.meas tran v_idle  FIND V(A0) AT 90m                ; expect ~2.50 V (ADC 512)
.meas tran v_peak  MAX  V(A0) FROM 100m TO 160m     ; expect ~3.15 V (ADC 645)
.meas tran v_flick PP   V(A0) FROM 220m TO 290m     ; quiet window, flicker only
.meas tran v_thr   PARAM 5*WIPER
.meas tran t_fire  WHEN V(D2)=2.5 CROSS=1           ; first falling edge
.meas tran lat_ms  PARAM (t_fire-100m)*1000
.meas tran t_fire2 WHEN V(D2)=2.5 CROSS=3           ; 2nd event, 200 ms later
.meas tran v_base2 FIND V(A0) AT 295m               ; baseline it starts from

* PASS: v_peak > v_thr > v_idle + v_flick/2, and BOTH t_fire and t_fire2 exist.
*
* t_fire2 is the re-arm check: does the second flash still fire after the first
* one's tail? The tail is the droop the high-pass accumulates DURING the flash,
* handed back at the falling edge - so a LONGER R3*C2 leaves a SMALLER tail,
* not a larger one. 50 ms into tau=1 s droops 4.9% (tail 32 mV at the output);
* tau=100 ms droops 39% (tail 260 mV). At the real 60 mV signal level both
* re-arm well inside 200 ms, so neither explains the merged triggers in
* trigger_characterization.md - that is the patch not returning to black, a DC
* effect this stage is built not to see.
* The middle term is the false-trigger margin. If it is thin, cascade a second
* 33k/0.1u before touching WIPER (stage 4).
*
* IB experiment: set IB=45n (LM358 typical). 45 nA through RHP=1Meg lifts HP by
* 45 mV, x11 = ~0.5 V of output offset, and the idle no longer sits at 2.5 V.
* RHP=100k cuts that to 50 mV and moves fc to 1.6 Hz. If your measured idle
* really is ADC 512 with a 1 MOhm in there, check which part is in the socket.
.end
